US04683242
2-Amino-3-(4-bromobenzoyl)-5-chlorobenzeneacetic acid, ethyl ester
A solution of 40.9 g (0.1 mole) of 2-amino-3-(4-bromobenzoyl)-5-chlorobenzeneacetic acid, sodium salt, monohydrate in 400 ml of dimethylformamide was treated with 32.0 g (0.2 mole) of ethyl iodide and the solution was let stand at ambient temperature overnight. The solution was poured in 3.5 liters of cold water and a solid gradually crystallized. The solid was collected by filtration, washed with water, and recrystallized from absolute ethanol to yield 36.2 g (91%) of title compound, a yellow solid, m.p. 92°-94° C.

reactant | 2-amino-3-(4-bromobenzoyl)-5-chlorobenzeneacetic acid | 0.1 mole, 40.9 g | NC1=C(C=C(C=C1C(C1=CC=C(C=C1)Br)=O)Cl)CC(=O)O | C15H11BrClNO3
reactant | sodium | [Na] | Na
reactant | ethyl iodide | 0.2 mole, 32.0 g | C(C)I | C2H5I
solvent | dimethylformamide | 400 ml | CN(C=O)C | C3H7NO
solvent | water | 3.5 liters | O | H2O
product | 2-Amino-3-(4-bromobenzoyl)-5-chlorobenzeneacetic acid, ethyl ester | 36.2 g, 91% | NC1=C(C=C(C=C1C(C1=CC=C(C=C1)Br)=O)Cl)CC(=O)OCC | C17H15BrClNO3
